US08809397B2
A mixture of D-(+)-camphor (4.40 g, 28.9 mmol) and sodium amide (2.50 g, 61.5 mmol) in toluene (100 mL) was stirred at 100° C. for 30 min. A solution of 1,3-dibromopropane (31.8 mmol, 3.24 mL, 6.42 g) in toluene (20 mL) was added, and the reaction was heated at reflux for 3 h. The reaction was cooled to ambient temperature, washed with water (100 mL), dried over anhydrous sodium sulfate and concentrated. The residue was dissolved in 5% methanol in dichloromethane (80 mL) and cooled to −78°C. Ozone was passed through the solution until the blue color persisted (˜10 minutes). Dimethyl sulfide (2 mL) was then added, and the reaction was warmed slowly to ambient temperature. The reaction mixture was concentrated, and the residue was purified on a silica gel column (40 g), eluting with 0-20% ether in hexanes, to obtain (1S,4R)-4,7,7-trimethylspiro[bicyclo[2.2.1]heptane-2,1′-cyclobutan]-3-one (1.66 g, 29.9% yield) as oil. 1H NMR (CDCl3, 400 MHz): δ 2.26 (m, 1H), 2.10-1.97 (m, 5H), 1.85-1.1.66 (m, 2H), 1.62-1.53 (m, 1H), 1.47-1.40 (m, 1H), 1.28-1.19 (m, 1H), 0.94 (s, 3H), 0.88 (s, 3H), 0.75 (s, 3H); LCMS (m/z): 193 (M+1).

reactant | D-(+)-camphor | 28.9 mmol, 4.40 g | CC1(C2CCC1(C(=O)C2)C)C | C10H16O
reactant | sodium amide | 61.5 mmol, 2.50 g | [NH2-].[Na+]
reactant | 1,3-dibromopropane | 31.8 mmol, 3.24 mL, 6.42 g | BrCCCBr | C3H6Br2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (1S,4R)-4,7,7-trimethylspiro[bicyclo[2.2.1]heptane-2,1′-cyclobutan]-3-one | 1.66 g, 29.9% yield | C[C@@]12C(C3(CCC3)[C@@H](CC1)C2(C)C)=O | C13H20O
